US04347382
A mixture of ethyl 3-(chloro-4-cyanophenyl)propanoate (33.0 g, 0.14 mol), KOH (6.27 g, 0.11 mol) and 95% ethanol (109 mL) was warmed at 40° C. for 1 h. The mixture was neutralized and evaporated to dryness. The residue was dissolved in 5% NaHCO3 and washed with EtOAc. Acidification and filtration gave crystalline 3-(2-chloro-4-cyanophenyl) propanoic acid: 18.4 g; mp 127°-219° C.

reactant | ethyl 3-(chloro-4-cyanophenyl)propanoate | 0.14 mol, 33.0 g | ClC1=C(C=CC(=C1)C#N)CCC(=O)OCC | C12H12ClNO2
reactant | KOH | 0.11 mol, 6.27 g | [OH-].[K+]
solvent | ethanol | 109 mL | C(C)O | C2H6O
product | 3-(2-chloro-4-cyanophenyl) propanoic acid | ClC1=C(C=CC(=C1)C#N)CCC(=O)O | C10H8ClNO2
